US07122665B2
[2,6-Di-morpholin-4-yl-7-(2-trimethylsilanyl-ethoxymethyl)-7H-purin-8-yl]-m-tolyl-methanone (185 mg, 0.34 mmol) was dissolved in ethanol (10 ml) and 2N HCl (4 mL). The resulting suspension was heated to reflux for 4 hrs then cooled to room temperature. After neutralization with 2N NaOH, ethanol was removed under reduced pressure and ethyl acetate (100 mL) was added. The ethyl acetate layer was washed with water (3×50 mL), dried over MgSO4 then evaporated to dryness. The crude product was purified by silcagel column chromatography. Elution with a gradient of 25% ethyl aceate/hexane to ethyl acetate to 10% methanol/ethyl aceate produced (2,6-di-morpholin-4-yl-7H-purin-8-yl)-m-tolyl-methanone (80 mg, 57% yield).

reactant | [2,6-Di-morpholin-4-yl-7-(2-trimethylsilanyl-ethoxymethyl)-7H-purin-8-yl]-m-tolyl-methanone | 0.34 mmol, 185 mg | N1(CCOCC1)C1=NC(=C2N(C(=NC2=N1)C(=O)C=1C=C(C=CC1)C)COCC[Si](C)(C)C)N1CCOCC1 | C27H38N6O4Si
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | HCl | 2N, 4 mL | Cl | ClH
product | (2,6-di-morpholin-4-yl-7H-purin-8-yl)-m-tolyl-methanone | 80 mg, 57% yield | N1(CCOCC1)C1=NC(=C2NC(=NC2=N1)C(=O)C=1C=C(C=CC1)C)N1CCOCC1 | C21H24N6O3
